US04654347
A mixture of 27.03 g of m-aminoacetophenone, 25.85 g of diisopropylethylamine, 27.32 g of n-butyl chloroformate and 300 ml of dichloromethane was reacted as described in Example 1, giving 42.10 g of (3-acetylphenyl)carbamic acid, butyl ester, mp 59°-60° C.

reactant | m-aminoacetophenone | 27.03 g | NC=1C=C(C=CC1)C(C)=O | C8H9NO
reactant | diisopropylethylamine | 25.85 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | n-butyl chloroformate | 27.32 g | ClC(=O)OCCCC | C5H9ClO2
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | (3-acetylphenyl)carbamic acid, butyl ester | 42.10 g | C(C)(=O)C=1C=C(C=CC1)NC(OCCCC)=O | C13H17NO3
